US05998424
2-Methylthiophenylboronic acid
2-Bromothioanisole (29.0 g, 143 mmol) was dissolved in dry THF (400 mL) and cooled to -75° C. n-BuLi (62.0 mL, 2.5 M in hexane, 155 mmol) was added over 50 minutes. After stirring 25 minutes, triisopropyl borate (46 mL, 199 mmol) was added over 35 minutes. The cold bath was removed and the reaction was stirred at room temp for 16 hours. The resulting solution was cooled in an ice bathours, and 6 M HCl (100 mL) was added. This mixture was stirred at room temp 5 hours and concentrated to about half of the original volume. The concentrated solution was partitioned between Et2O and water. The organic layer was extracted with 2 M NaOH, which was subsequently reacidified with 6 M HCl and extracted several times back into Et2O. These Et2O washes were dried over Na2SO4, filtered, and evaporated to yield a beige solid (20.4 g, 85%). 1H NMR (CDCl3): δ8.01 (dd, 1H, J=7.3, J'=1.4), 7.53 (dd, 1H, J=7.7, J'=1.1), 7.43 (td, 1H, J=7.3, J'=1.8), 7.34 (td, 1H, J=7.3, J'=1.5), 6.22 (s, 2H) , 2.50 (s, 3H).

reactant | 2-Bromothioanisole | 143 mmol, 29.0 g | BrC1=C(C=CC=C1)SC | C7H7BrS
reactant | n-BuLi | 155 mmol, 2.5 M, 62.0 mL | [Li]CCCC
reactant | triisopropyl borate | 199 mmol, 46 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 2-Methylthiophenylboronic acid | 20.4 g, 85% | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
